US05576321
Preparation of (2S)-(+)-3-[4-(5-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)-2-propanol
The title compound was prepared in a fashion similar to that described in Example 1 using (S)-(+)-4-(oxiranylmethoxy)-1H-indole and 5-chloro-3-(piperidin-4-yl)-1H-indole using ethanol as the reaction solvent. Yield 0.380 g (42%) as a yellowish foam. mp 109°-114° C. (dec) FDMS m/e=423 (M+ of free base). α[D]589 =+6.5 (c=1.04, dimethylsulfoxide).

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 5-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (2S)-(+)-3-[4-(5-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)-2-propanol | ClC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C[C@@H](COC1=C2C=CNC2=CC=C1)O | C24H26ClN3O2
